US07173028B2
2-methyl-2,8-diaza-spiro[5.5]undecan-5-ol
Of the 11-hydroxy-8-methyl-2,8-diaza-spiro[5.5]undecan-1-one obtained, 2 g are taken up in 20 ml of absolute tetrahydrofuran; this solution is added dropwise, with stirring, to 1 g of LiAlH4 in 50 ml of absolute tetrahydrofuran. The temperature rises to 36° C., while hydrogen is given off in copious amounts. After another 3 hours at ambient temperature the mixture is refluxed for 10 hours. The reaction is stopped by the addition of 2 ml of water and 2 ml 1N aqueous sodium hydroxide solution while cooling with ice. The product is extracted with ethyl acetate and the solvent is eliminated in vacuo. Then the amine is precipitated from absolute ethanol with HCl gas, in the form of the hydrochloride. Yield 1.44 g.

reactant | 11-hydroxy-8-methyl-2,8-diaza-spiro[5.5]undecan-1-one | OC1CCN(CC12CCCNC2=O)C | C10H18N2O2
reactant | LiAlH4 | 1 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | hydrogen | [H][H] | H2
reactant | sodium hydroxide | 1N, 2 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | water | 2 ml | O | H2O
product | 2-methyl-2,8-diaza-spiro[5.5]undecan-5-ol | CN1CC2(C(CC1)O)CNCCC2 | C10H20N2O
